US06841674B2
To 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide (2.5 g, 5.8 mmol) (a compound of formula (Yc3)) in MeOH (50 mL) was bubbled ammonia. Raney nickel (1.0 g of a 50% slurry) was added and the reaction was placed on a Parr hydrogenator at 50 psi. After shaking for 16 hours, the pressure was released and the reaction mixture was suction filtered through Celite. The solvent was removed in vacuo and the residue was chromatographed on silica gel (9:1 CH3CN/NH4OH) to afford 2-[(3-aminopropyl)[2-(1H-imidazol-1-yl)-6-methyl)-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide, a compound of formula (Yc6); as a white solid; NMR (DMSO-d6, 90° C.) 8.4 (s, 1), 7.8 (s, 1), 7.0 (s, 1), 6.75 (d, 1), 6.7 (s, 1), 6.6 (d, 1), 5.9 (s, 2), 4.1 (s, 2), 3.6 (br, 2), 3.3 (m, 2), 2.75 (t, 2), 2.6 (t, 2), 2.3 (s, 3), 1.8 (m, 2) ppm.

reactant | 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide | 5.8 mmol, 2.5 g | C(#N)CCN(CC(=O)NCCC1=CC2=C(OCO2)C=C1)C1=NC(=NC(=C1)C)N1C=NC=C1 | C22H23N7O3
reactant | ammonia | N | H3N
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide | O1COC2=C1C=CC(=C2)CCNC(C)=O | C11H13NO3
